US08735445B2
Procedure for the synthesis of 5-amino-3-[1-cyano-2-(2,6-dimethoxyphenyl)vinyl]-1-phenyl-1H-pyrazole-4-carbonitrile (compound 11)
1 g (4.48 mmol) of 5-amino-4-cyano-1-phenyl-3-pyrazoleacetonitrile is suspended in 15 mL of toluene, in a round-bottomed flask, under an argon atmosphere, surmonted by a Dean and Stark apparatus. 0.744 g (1 eq.) of 2,6-dimethoxybenzaldehyde and 0.030 mL of piperidine are added to the mixture. The reaction medium is refluxed overnight, and is then allowed to return to ambient temperature. A whitish precipitate forms and is filtered off and washed with toluene. The filtrate is concentrated to dryness and the residue is taken up in ethanol with agitation for 15 minutes. The suspension is filtered and the filtrate is concentrated to dryness. The residue is combined with the precipitate previously obtained, and purified on silica gel (eluent: 98/2 dichloromethane/methanol). 619 mg of product are thus obtained with a yield of 37%.

reactant | 5-amino-4-cyano-1-phenyl-3-pyrazoleacetonitrile | 4.48 mmol, 1 g | NC1=C(C(=NN1C1=CC=CC=C1)CC#N)C#N | C12H9N5
reactant | 2,6-dimethoxybenzaldehyde | 0.744 g, 1 eq. | COC1=C(C=O)C(=CC=C1)OC | C9H10O3
reactant | piperidine | 0.030 mL | N1CCCCC1 | C5H11N
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 5-amino-3-[1-cyano-2-(2,6-dimethoxyphenyl)vinyl]-1-phenyl-1H-pyrazole-4-carbonitrile | 619 mg, yield of 37% | NC1=C(C(=NN1C1=CC=CC=C1)C(=CC1=C(C=CC=C1OC)OC)C#N)C#N | C21H17N5O2
